US04160021
A solution of 2.0 g. (0.0095 mol) of 3-ethoxycarbamoylnitrobenzene in 100 ml. of 2B ethanol was hydrogenated over 200 mg. of 10% palladium-on-carbon at 50 psi. Reduction was complete in 1 hour, the catalyst was filtered and to the filtrate was added 1.71 g. (0.0095 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyranone. The mixture was heated under reflux for 1.5 hours, cooled, and the product filtered to yield 5-acetyl-4-hydroxy-3-[1-(3-ethoxycarbamoylphenylamino)ethylidene]-2H-pyran-2,6-(3H)-dione, m.p. 162°-164° C.

reactant | 3-ethoxycarbamoylnitrobenzene | 0.0095 mol | C(C)ONC(=O)C=1C=C(C=CC1)[N+](=O)[O-] | C9H10N2O4
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyranone | 0.0095 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-acetyl-4-hydroxy-3-[1-(3-ethoxycarbamoylphenylamino)ethylidene]-2H-pyran-2,6-(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC=C1)C(NOCC)=O)O | C18H18N2O7
